US09376438B2
A mixture of (E/Z)-3-cyclopropyl-2-fluoroacrylic acid (68 mg, 0.52 mmol), (R)-3-(4-phenoxyphenyl)-1-(pyrrolidin-2-ylmethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (158 mg, 0.52 mmol), triethylamine (69 mg, 0.68 mmol) and DMF (4 mL) were stirred at room temperature for 10 mins. O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium PF6 (257 mg, 0.68 mmol) was then added and the mixture was stirred for 75 min. The solvent was evaporated and the oil was worked up with ethylacetate and water. Organic layer was washed with brine and dried with MgSO4. Purification with column chromatography (SiO2, MeOH|DCM with gradient form 1% to 2% in total 500 mL) gave (R)-1-(2-((4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-3-cyclopropyl-2-fluoroprop-2-en-1-one. MS (pos. ion) m/z: 499 (M+1).

reactant | (R)-3-(4-phenoxyphenyl)-1-(pyrrolidin-2-ylmethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.52 mmol, 158 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C[C@@H]2NCCC2 | C22H22N6O
reactant | triethylamine | 0.68 mmol, 69 mg | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium PF6 | 0.68 mmol, 257 mg | N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (R)-1-(2-((4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-3-cyclopropyl-2-fluoroprop-2-en-1-one | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C[C@@H]2N(CCC2)C(C(=CC2CC2)F)=O | C28H27FN6O2
